US06369057B1
(3RS)-3-Methyl-4-N-(3-methyl-2-buten-1-yl)-3,4-dihydroquinoxalin-2(1H)-one
(3RS)-3-Methyl-3,4-dihydroquinoxalin-2(1H)-one (4.86 g, 0.03 mol) dissolved in 50 ml of N,N-dimethylformamide, was alkylated with 4.2 ml (0.033 mol) of 3-methyl-2-buten-1-yl bromide (90%) in the presence of 4.60 g (0.033 mol) of pulverulent potassium carbonate. The reaction mixture was stirred at room temperature until reaction of the educt was complete. The solvent was then stripped off in vacuo, the residue was taken up in ethyl acetate and water, the phases were separated, the aqueous phase was extracted twice with ethyl acetate, and the combined organic extracts were washed twice with water. Drying over sodium sulfate, concentration in vacuo and crystallization from pentane gave 5.80 g (84%) of white crystalline product of melting point 92-93° C.

reactant | (3RS)-3-Methyl-3,4-dihydroquinoxalin-2(1H)-one | 0.03 mol, 4.86 g | CC1C(NC2=CC=CC=C2N1)=O | C9H10N2O
reactant | 3-methyl-2-buten-1-yl bromide | 0.033 mol, 4.2 ml | CC(=CCBr)C | C5H9Br
reactant | potassium carbonate | 0.033 mol, 4.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS)-3-Methyl-4-N-(3-methyl-2-buten-1-yl)-3,4-dihydroquinoxalin-2(1H)-one | 5.80 g, 84% | CC1C(NC2=CC=CC=C2N1CC=C(C)C)=O | C14H18N2O
